US08236826B2
Production of 3-[4-(5-nitropyridin-2-ylsulfanyl)phenyl]propionic acid
To a solution of 2-chloro-5-nitropyridine (1.74 g, 11.0 mmol) and 4-mercaptohydrocinnamic acid (2.00 g, 11.0 mmol) in DMF (30 mL) was added potassium carbonate (4.55 g, 32.9 mmol), and the resulting solution was stirred for 1 hour at 80° C. To the reaction solution were added water and concentrated hydrochloric acid, and then cooled with ice. The precipitated solid matter was collected by filtration, to thereby yield 3.29 g of the title compound.

reactant | 2-chloro-5-nitropyridine | 11.0 mmol, 1.74 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | 4-mercaptohydrocinnamic acid | 11.0 mmol, 2.00 g | SC1=CC=C(CCC(=O)O)C=C1 | C9H10O2S
reactant | potassium carbonate | 32.9 mmol, 4.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-[4-(5-nitropyridin-2-ylsulfanyl)phenyl]propionic acid | [N+](=O)([O-])C=1C=CC(=NC1)SC1=CC=C(C=C1)CCC(=O)O | C14H12N2O4S
